US08232294B2
Step 1) (S)—((R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-(benzyloxy-carbonylamino)propanoate
The title compound was prepared according to the procedure described in Example of 73 Step 6 by using (R)—N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (4.1 g, 7.2 mmol), (S)—N-Cbz-alanine (3.2 g, 14.4 mmol). The title compound was obtained as a white powder (4.2 g, 75.1%).

reactant | (R)—N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(2-hydroxypropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 7.2 mmol, 4.1 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)O)C1=CC=CC=C1)=O)F | C31H29FN4O6
reactant | (S)—N-Cbz-alanine | 14.4 mmol, 3.2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
product | (S)—((R)-1-(4-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl)2-(benzyloxy-carbonylamino)propanoate | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC([C@H](C)NC(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1)=O)F | C42H40FN5O9
